US08193356B2
To a suspension of 4-hydroxy-3-(2-methylphenylacetyl)-1-(3-trifluoromethylphenyl)-1,8-naphthyridin-2(1H)-one (568 mg, 1.3 mmol) produced in Synthesis Example 36 in DMF (5.5 mL) was added hydrazine monohydrate (purity of 80%, 207 μL), and the mixture was stirred at 110 to 120° C. for 2 hours. To the reaction solution was added a sodium hydrogencarbonate aqueous solution. The resulting precipitate was separated by filtration, washed with water, and dried to give 3-(2-methylbenzyl)-5-(3-trifluoromethylphenyl)-1H-pyrazolo[4,3-c][1,8]-naphthyridin-4(5H)-one as a form of crystal (519 mg, yield 92%).

reactant | 4-hydroxy-3-(2-methylphenylacetyl)-1-(3-trifluoromethylphenyl)-1,8-naphthyridin-2(1H)-one | 1.3 mmol, 568 mg | OC1=C(C(N(C2=NC=CC=C12)C1=CC(=CC=C1)C(F)(F)F)=O)C(CC1=C(C=CC=C1)C)=O | C24H17F3N2O3
reactant | hydrazine monohydrate | 207 μL | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
product | 3-(2-methylbenzyl)-5-(3-trifluoromethylphenyl)-1H-pyrazolo[4,3-c][1,8]-naphthyridin-4(5H)-one | CC1=C(CC2=NNC3=C2C(N(C=2N=CC=CC32)C3=CC(=CC=C3)C(F)(F)F)=O)C=CC=C1 | C24H17F3N4O
